US05164402
A. 7-(1-tert-Butoxycarbonylamino-3-azabicyclo[4.1.0]-hept-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
According to the procedure of Example 34A, 1-tertbutoxycarbonylamino-3-azabicyclo[4.1.0]heptane (270.0 mg, 1.27 mmol) and 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (275.6 mg, 1.03 mmol) were reacted to generate the title compound (304.2 mg, 0.666 mmol, 65%).

reactant | 1-tertbutoxycarbonylamino-3-azabicyclo[4.1.0]heptane | 1.27 mmol, 270.0 mg | C(C)(C)(C)OC(=O)NC12CNCCC2C1 | C11H20N2O2
reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 1.03 mmol, 275.6 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
product | 7-(1-tert-Butoxycarbonylamino-3-azabicyclo[4.1.0]-hept-3-yl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 0.666 mmol, 304.2 mg, 65% | C(C)(C)(C)OC(=O)NC12CN(CCC2C1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C24H28FN3O5
